US05968985
Methyl 3-[(2-dimethylaminoethyl)carbamoyl]-5-trifluromethylsulfonyloxybenzoate trifluoromethanesulfonate (1.45 g) was dissolved in ethyl acetate (150 ml) and to the mixture water (50 ml) was added. The mixture was adjusted to pH 9 and two layers were separated. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to give methyl 3-[(2-dimethylaminoethyl)carbamoyl]-5-trifluoromethylsulfonyloxvbenzoate (1.14 g).

reactant | Methyl 3-[(2-dimethylaminoethyl)carbamoyl]-5-trifluromethylsulfonyloxybenzoate trifluoromethanesulfonate | 1.45 g | FC(S(=O)(=O)O)(F)F.CN(CCNC(=O)C=1C=C(C(=O)OC)C=C(C1)OS(=O)(=O)C(F)(F)F)C
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | methyl 3-[(2-dimethylaminoethyl)carbamoyl]-5-trifluoromethylsulfonyloxvbenzoate | 1.14 g | CN(CCNC(=O)C=1C=C(C(=O)OC)C=C(C1)OS(=O)(=O)C(F)(F)F)C | C14H17F3N2O6S
